2169-11-25 11:09:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85yo F with pmh choledocholithiasis, dementia and renal cancer who
   presents with septic shock and cholangitis, s/p ERCP with stent, and
   respiratory failure.  Now with persistent vent requirements.
   24 Hour Events:
   Arterial line came out.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-25**] 08:06 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2169-11-24**] 05:00 PM
   Midazolam (Versed) - [**2169-11-25**] 08:11 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Unable to obtain, patient sedated and intubated.
   Flowsheet Data as of  [**2169-11-25**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.2
C (97.2
   HR: 128 (114 - 141) bpm
   BP: 111/67(76) {83/54(62) - 127/70(81)} mmHg
   RR: 23 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 83.8 kg (admission): 83.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,682 mL
                                                                    311 mL
   PO:
             TF:
                                                                     73 mL
                                                                      1 mL
   IVF:
                                                                  1,610 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                    920 mL
   Urine:
                                                                  2,045 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -363 mL
                                                                   -609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 380 (308 - 528) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   Compliance: 31.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/34/127/24/1
   Ve: 9.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Gen
l: intubated, sedated
   HEENT: ETT in place, pupils constricted by equal and reactive
   Pulm: diminished, transmitted vent sounds, no wheezing, crackles at
   bases anteriorly
   CV: irregularly irregular, tachycardic, distant and no murmur
   appreciated, no gallop or rubs
   Abdomen: soft, no grimace to palpation, (+) bowel sounds
   Extremities: no edema
   Neurologic: responds to tactile stimuli, non-purposeful movement
   Labs / Radiology
   9.8 g/dL
   48 K/uL
   128 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   29 mg/dL
   107 mEq/L
   140 mEq/L
   29.7 %
   11.3 K/uL
        [image002.jpg]
                            [**2169-11-22**]  05:50 PM
                            [**2169-11-23**]  03:59 AM
                            [**2169-11-23**]  05:12 AM
                            [**2169-11-23**]  06:45 AM
                            [**2169-11-23**]  03:25 PM
                            [**2169-11-23**]  06:19 PM
                            [**2169-11-24**]  04:18 AM
                            [**2169-11-24**]  04:37 AM
                            [**2169-11-25**]  03:15 AM
                            [**2169-11-25**]  04:02 AM
   WBC
   17.8
   15.3
   20.2
   11.3
   Hct
   30.8
   31.4
   30.7
   29.7
   Plt
   48
   59
   46
   52
   48
   Cr
   2.1
   2.1
   1.8
   1.6
   1.5
   TropT
   0.02
   TCO2
   23
   23
   26
   25
   Glucose
   151
   266
   102
   91
   128
   Other labs: PT / PTT / INR:12.2/33.1/1.0, CK / CKMB /
   Troponin-T:269/8/0.02, ALT / AST:70/36, Alk Phos / T Bili:102/2.5,
   Amylase / Lipase:16/, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:3903 ng/mL, Fibrinogen:596 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:203 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 Respiratory failure
   - now likely secondary to volume overload
   - goal TBB - 1 to -1.5L today and will give prn lasix
   - wean pressure support as tolerated, check CXR
 Septic shock
   - now off pressors, autodiuresing
   - on zosyn, day [**5-19**], leukocytosis improving
   - LFTs improving s/p stenting via ERCP
   - awaiting speciation/sensitivities from cultures
Atrial fibrillation
   - on amiodarone drip, will continue for now
   - will calculate total dose today
 Thrombocytopenia
   - stable, no signs of active bleeding
   - very low suspicion for HIT
   - will restart SC heparin when plts >50K
   ICU Care
   Nutrition:
   Comments: restart TF as unlikely to be extubated today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-11-22**] 03:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2169-11-27 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - will attempt to decrease sedation this evening and do an SBT, if she
   looks good will hold tube feeds, otherwise will continue feeds
   overnight
   - patient only negative about 600cc's at 4pm, gave 20mg IV lasix and
   then urine output was over 1L to the lasix
   - RSBI at 9pm=166, then SBT lasted about 15min, she was maintaining her
   MV and O2sats but RR in the 40's with small TV's.  After about 15min
   became uncomfortable with increased WOB-->improved from prior, has more
   stamina, diuresis seems to be improving her respiratory status
   - per discussion with patient's family she can be reintubated if she
   fails extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-27**] 12:29 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-11-26**] 11:55 AM
   Furosemide (Lasix) - [**2169-11-26**] 06:14 PM
   Heparin Sodium (Prophylaxis) - [**2169-11-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-27**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 112 (106 - 129) bpm
   BP: 89/56(65) {89/51(65) - 144/103(111)} mmHg
   RR: 12 (12 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 83.8 kg (admission): 83.8 kg
   Height: 64 Inch
             Total In:
                                                                    733 mL
                                                                    452 mL
   PO:
             TF:
                                                                    202 mL
                                                                    264 mL
   IVF:
                                                                    531 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  3,345 mL
                                                                    765 mL
   Urine:
                                                                  3,345 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,612 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 296 (241 - 304) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 166
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 8.6 L/min
   Physical Examination
   General: Intubated, awake, responsive, follows some commands
   HEENT: PERRL, MMM, ETT in place
   Neck: RIJ in place
   Lungs: coarse breath sounds bilateral anteriorly, no wheezes, rales,
   ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no LE edema, upper extremities
   R>L, [**3-14**]+ edema bilaterally
   Skin: somewhat jaundiced
   Labs / Radiology
   84 K/uL
   9.2 g/dL
   143 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.9 mEq/L
   24 mg/dL
   104 mEq/L
   140 mEq/L
   27.9 %
   11.2 K/uL
        [image002.jpg]
                            [**2169-11-23**]  06:45 AM
                            [**2169-11-23**]  03:25 PM
                            [**2169-11-23**]  06:19 PM
                            [**2169-11-24**]  04:18 AM
                            [**2169-11-24**]  04:37 AM
                            [**2169-11-25**]  03:15 AM
                            [**2169-11-25**]  04:02 AM
                            [**2169-11-26**]  04:54 AM
                            [**2169-11-26**]  09:30 PM
                            [**2169-11-27**]  04:15 AM
   WBC
   15.3
   20.2
   11.3
   10.6
   11.2
   Hct
   31.4
   30.7
   29.7
   29.3
   27.9
   Plt
   59
   46
   52
   48
   60
   84
   Cr
   1.8
   1.6
   1.5
   1.5
   1.4
   1.3
   TropT
   0.02
   TCO2
   23
   26
   25
   Glucose
   102
   91
   128
   119
   126
   143
   Other labs:
   Mg: 1.6
   Alk Phos: 103, T. bili: 1.5
   PT: 12,  INR: 1,  PTT: 23.7
   Microbiology:
Blood Culture: Blood Culture, Routine (Preliminary):
      ANAEROBIC GRAM POSITIVE ROD(S).
         NOT RESEMBLING CLOSTRIDIUM SPECIES.
         ANAEROBIC GRAM NEGATIVE ROD(S).
   Imaging:
   Chest X-Ray [**11-27**] (my read): slightly worsening left effusion and right
   basilar patchy opacity
   Assessment and Plan
   85yo F with a h/o choledocholithiasis, HTN, renal CA, and dementia who
   presents with dyspnea and vomiting complicated by acute respiratory
   failure and septic shock likely secondary to cholangitis. She is s/p
   ERCP and stent.
   .
   # Dyspnea/respiratory failure: Resp failure initially thought to be due
   to her primary metabolic acidosis, which caused her to hyperventilate
   to compensate and fatigued, becoming acutely SOB and requiring
   intubation in the ED. Unable to wean effectively; likely secondary to
   fluid resuscitation; as fluid overload is seen on CXR.
   - Net goal yesterday was -1 to 1.5L, patient was only net negative
   about 800 cc
s in the evening so she was given 20mg IV lasix with a
   brisk urine output response.  Will give another dose of lasix since she
   had her best SBT with the increased diuresis, hold tube feeds for now
   in case she is able to be extubated this afternoon.  She will likely
   never have an excellent RSBI, but she will need to not tire and
   maintain her sats during her SBT.
   - Hold sedation for now to optimize mental status prior to extubation
   - [**Month (only) 8**] need to place a dobhoff prior to extubation as she may be an
   aspiration risk
   - CXR looks stable to slightly worsened this morning
   - family okay with re-intubation if patient fails extubation
   # Atrial Fibrillation: First occurred during SBT on [**11-23**], initially
   rates were in the 110
s, then increased to the 130
s.  Trialed
   metoprolol 12.5mg PO yesterday, with some improvement in HR to the
   100
s and her BP tolerated it well.
   - Increase metoprolol to 25mg [**Hospital1 **] and titrate up to good HR control as
   her BP tolerates
   # Septic shock:  Likely secondary to cholangitis and infected
   stone/sludge. ERCP showed significant pusand very large stone, she is
   s/p stent placement. Patient afebrile and white count stable. Lactate
   normal. Initial sepsis secondary to biliary source given CBD dilation
   with sludge and obstructive LFTs in setting on known
   choledocholithiasis. No other source of infection found.
   - Leukocytosis is resolving
white count almost normalized.  Had been
   afebrile for over 24 hours.
   - Cont zosyn pending any further culture data; Day [**2174-7-19**] of zosyn.
   Day 1=[**11-22**].  Will f/u cutlure data to see if we can narrow our
   coverage, if she needs to be continued on Zosyn will place a PICC and
   pull central line, may be able to transitioned to a po antibiotic
   - plan for repeat ERCP in one month, after resolution of initial
   infection for stone break up and removal
   - f/u sputum culture
   .
   # ARF: Improved, near baseline. Likely related to sepsis and
   intravascular volume depletion secondary to vomiting and diarrhea, also
   likely some component of ATN as her renal function has not improved as
   quickly with fluids as would be expected in a purely pre-renal picture.
   Cr back to her baseline at 1.3 today.
   - Monitor UOP
   - Trend creatinine while diuresing
   - Check PM lytes
   .
   #Thrombocytopenia: Stable, and her platelet count is increasing. Likely
   secondary to sepsis.
   - Platelet count stable and increasing
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2169-11-26**] 11:56 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-11-22**] 03:45 AM
   Prophylaxis:
   DVT: Heparin SQ, pneumo boots
   Stress ulcer: none while on feeds
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR, is intubated, ok to be reintubated post extubation if
   necessary
   Disposition: ICU pending stabilization post extubation

2169-11-28 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - diurese further today to help w possibility of extubation--> Net Goal
   -1.5-2L
   - consider risk of aspiration post-extubation due to mental status
   - NG tube? prior to extubation
   - consider changing her to PO Abx today
   - amio was stopped yesterday [**11-26**]; on metoprolol 25mg [**Hospital1 **]--> incr to
   TID
   - need to address possib of anticoagulation w family and PCP
   [**Name Initial (PRE) **] given lasix 10mg IV x2 (2pm and 9:30pm) -- (BPs in 90s wouldnt
   tolerate 20mg IV)
   - RR was in 30s on PS 12/5, so she was switched to AC Vt 500cc, PEEP 5
   at 9:30pm to rest, so that she can be ready, better rested for SBT
   tomorrow, esp after diuresis
   - SBT in the AM to figure out if she's ready to be extubated; can
   restart tube feeds in AM if not ready
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-28**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2169-11-27**] 04:27 PM
   Heparin Sodium (Prophylaxis) - [**2169-11-28**] 04:31 AM
   Furosemide (Lasix) - [**2169-11-28**] 04:39 AM
   Metoprolol - [**2169-11-28**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 116 (100 - 125) bpm
   BP: 107/59(68) {86/45(56) - 122/86(97)} mmHg
   RR: 23 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.2 kg (admission): 83.8 kg
   Height: 64 Inch
    CVP: 9 (9 - 272)mmHg
   Total In:
                                                                  2,091 mL
                                                                    206 mL
   PO:
   TF:
                                                                  1,506 mL
   IVF:
                                                                    524 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                  1,120 mL
   Urine:
                                                                  2,125 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -34 mL
                                                                   -915 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 324 (255 - 463) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 7.1 L/min
   Physical Examination
   General: Intubated, awake, responsive, follows some commands
   HEENT: PERRL, MMM, ETT in place
   Neck: RIJ in place
   Lungs: coarse breath sounds bilateral anteriorly, no wheezes, rales,
   ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no LE edema, upper extremities
   R>L, [**3-14**]+ edema bilaterally
   Skin: somewhat jaundiced
   Labs / Radiology
   131 K/uL
   9.1 g/dL
   109 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   22 mg/dL
   103 mEq/L
   142 mEq/L
   27.4 %
   12.2 K/uL
        [image002.jpg]
                            [**2169-11-23**]  06:19 PM
                            [**2169-11-24**]  04:18 AM
                            [**2169-11-24**]  04:37 AM
                            [**2169-11-25**]  03:15 AM
                            [**2169-11-25**]  04:02 AM
                            [**2169-11-26**]  04:54 AM
                            [**2169-11-26**]  09:30 PM
                            [**2169-11-27**]  04:15 AM
                            [**2169-11-27**]  03:55 PM
                            [**2169-11-28**]  02:50 AM
   WBC
   20.2
   11.3
   10.6
   11.2
   12.2
   Hct
   30.7
   29.7
   29.3
   27.9
   27.4
   Plt
   52
   48
   60
   84
   131
   Cr
   1.6
   1.5
   1.5
   1.4
   1.3
   1.4
   1.5
   TCO2
   23
   26
   25
   Glucose
   91
   128
   119
   126
   143
   117
   109
   Other labs: PT / PTT / INR:12.0/23.7/1.0, CK / CKMB /
   Troponin-T:269/8/0.02, ALT / AST:45/23, Alk Phos / T Bili:103/1.5,
   Amylase / Lipase:16/, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:3903 ng/mL, Fibrinogen:596 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:203 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.6 mg/dL
   Microbiology:
Blood Culture: Blood Culture, Routine (Preliminary):
      ANAEROBIC GRAM POSITIVE ROD(S).
         NOT RESEMBLING CLOSTRIDIUM SPECIES.
         ANAEROBIC GRAM NEGATIVE ROD(S).
[**2169-11-27**] 3:55 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2169-11-27**]):
      [**12-3**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   Imaging:
   Chest X-Ray [**11-27**] at 2330 (my read): stable LLL effusion and RLL patchy
   opacity
   Assessment and Plan
   85yo F with a h/o choledocholithiasis, HTN, renal CA, and dementia who
   presents with dyspnea and vomiting complicated by acute respiratory
   failure and septic shock likely secondary to cholangitis. She is s/p
   ERCP and stent.
   .
   # Dyspnea/respiratory failure: Resp failure initially thought to be due
   to her primary metabolic acidosis, which caused her to hyperventilate
   to compensate and fatigued, becoming acutely SOB and requiring
   intubation in the ED. Unable to wean effectively; likely secondary to
   fluid resuscitation; as fluid overload is seen on CXR.
   - Net goal yesterday was -1 to 1.5L, patient was only net negative
   about 800 cc
s in the evening so she was given 20mg IV lasix with a
   brisk urine output response.  Will give another dose of lasix since she
   had her best SBT with the increased diuresis, hold tube feeds for now
   in case she is able to be extubated this afternoon.  She will likely
   never have an excellent RSBI, but she will need to not tire and
   maintain her sats during her SBT.
   - Hold sedation for now to optimize mental status prior to extubation
   - [**Month (only) 8**] need to place a dobhoff prior to extubation as she may be an
   aspiration risk
   - CXR looks stable to slightly worsened this morning
   - family okay with re-intubation if patient fails extubation
   # Atrial Fibrillation: First occurred during SBT on [**11-23**], initially
   rates were in the 110
s, then increased to the 130
s.  Trialed
   metoprolol 12.5mg PO yesterday, with some improvement in HR to the
   100
s and her BP tolerated it well.
   - Increase metoprolol to 25mg [**Hospital1 **] and titrate up to good HR control as
   her BP tolerates
   # Septic shock:  Likely secondary to cholangitis and infected
   stone/sludge. ERCP showed significant pusand very large stone, she is
   s/p stent placement. Patient afebrile and white count stable. Lactate
   normal. Initial sepsis secondary to biliary source given CBD dilation
   with sludge and obstructive LFTs in setting on known
   choledocholithiasis. No other source of infection found.
   - Leukocytosis is resolving
white count almost normalized.  Had been
   afebrile for over 24 hours.
   - Cont zosyn pending any further culture data; Day [**2174-7-19**] of zosyn.
   Day 1=[**11-22**].  Will f/u cutlure data to see if we can narrow our
   coverage, if she needs to be continued on Zosyn will place a PICC and
   pull central line, may be able to transitioned to a po antibiotic
   - plan for repeat ERCP in one month, after resolution of initial
   infection for stone break up and removal
   - f/u sputum culture
   .
   # ARF: Improved, near baseline. Likely related to sepsis and
   intravascular volume depletion secondary to vomiting and diarrhea, also
   likely some component of ATN as her renal function has not improved as
   quickly with fluids as would be expected in a purely pre-renal picture.
   Cr back to her baseline at 1.3 today.
   - Monitor UOP
   - Trend creatinine while diuresing
   - Check PM lytes
   .
   #Thrombocytopenia: Stable, and her platelet count is increasing. Likely
   secondary to sepsis.
   - Platelet count stable and increasing
   ICU Care
   Nutrition: Tube feeds held o/n for possible extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-11-22**] 03:45 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), ok for re-intubation if patient
   fails extubation
   Disposition: ICU

2169-11-29 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - f/u VBG 7.48/42/78 in mixed venous, Very weird gas for venous...
   - BNP high 5525 c/w volume overload.
   - still intubated with plan to do bronch Wednesday and change out the
   ET tube to a bigger size
   - i/o's goal of 1.5 to 2 liters. at goal around midnight
   - esmolol gtt and d/c metoprolol: Patient got very hypotensive. Esmolol
   stopped: started dilt po 30 mg qid and metoprolol 25 po tid...will need
   to clean this up in rounds. not at maximum doses of either and both
   aren't working very well.
   - Upright rsbi to be done in early AM.
   - PICC placed
   - Called micro lab: will try to speciate. will call in AM to confirm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-29**] 12:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-11-28**] 08:39 AM
   Heparin Sodium (Prophylaxis) - [**2169-11-29**] 04:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-29**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 99 (86 - 128) bpm
   BP: 99/54(64) {62/23(32) - 149/93(100)} mmHg
   RR: 28 (18 - 41) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.2 kg (admission): 83.8 kg
   Height: 64 Inch
    CVP: 6 (2 - 6)mmHg
   Total In:
                                                                    784 mL
                                                                    256 mL
   PO:
   TF:
   IVF:
                                                                    784 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  2,885 mL
                                                                    495 mL
   Urine:
                                                                  2,885 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,101 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 260 (260 - 404) mL
   PS : 8 cmH2O
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 154
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.2 g/dL
   80 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   22 mg/dL
   101 mEq/L
   140 mEq/L
   27.9 %
   11.3 K/uL
        [image002.jpg]
                            [**2169-11-24**]  04:37 AM
                            [**2169-11-25**]  03:15 AM
                            [**2169-11-25**]  04:02 AM
                            [**2169-11-26**]  04:54 AM
                            [**2169-11-26**]  09:30 PM
                            [**2169-11-27**]  04:15 AM
                            [**2169-11-27**]  03:55 PM
                            [**2169-11-28**]  02:50 AM
                            [**2169-11-28**]  05:17 PM
                            [**2169-11-29**]  03:59 AM
   WBC
   11.3
   10.6
   11.2
   12.2
   11.3
   Hct
   29.7
   29.3
   27.9
   27.4
   27.9
   Plt
   48
   60
   84
   131
   174
   Cr
   1.5
   1.5
   1.4
   1.3
   1.4
   1.5
   1.4
   1.4
   TCO2
   26
   25
   Glucose
   128
   119
   126
   143
   117
   109
   98
   80
   Other labs:
   Ca: 8.6, Mg: 2.2, Phos: 3.1
   Mircrobiology:
[**2169-11-21**] 11:55 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      ANAEROBIC GRAM POSITIVE ROD(S).
         NOT RESEMBLING CLOSTRIDIUM SPECIES.
         IDENTIFICATION PERFORMED ON CULTURE # 283-4126L [**2169-11-22**].
      ANAEROBIC GRAM NEGATIVE ROD(S).
         IDENTIFICATION PERFORMED ON CULTURE # 283-4126L [**2169-11-22**].
   Anaerobic Bottle Gram Stain (Final [**2169-11-23**]):
         GRAM POSITIVE ROD(S) AND GRAM NEGATIVE ROD(S)
   Radiology:
   Chest X-ray ([**11-28**]): FINDINGS: Left PICC ends in the upper superior
   vena cava. The patient remains intubated, with the endotracheal tube
   terminating 3.2 cm above the carina. The right internal jugular line
   ends in the mid superior vena cava. Left pleural effusion with
   atelectasis have not changed. Pulmonary arteries are markedly enlarged,
   consistent with pulmonary arterial hypertension. The right lung is
   clear. There is no pulmonary edema.
   Assessment and Plan
   85yo F with a h/o choledocholithiasis, HTN, renal CA, and dementia who
   presents with dyspnea and vomiting complicated by acute respiratory
   failure and septic shock likely secondary to cholangitis. She is s/p
   ERCP and stent.
   .
   # Dyspnea/respiratory failure: Resp failure initially thought to be due
   to her primary metabolic acidosis, which caused her to hyperventilate
   to compensate and fatigued, becoming acutely SOB and requiring
   intubation in the ED. Unable to wean effectively; likely secondary to
   fluid resuscitation; as fluid overload is seen on CXR.  Patient is
   having difficulty coming off PEEP, becomes very tachypneic and has low
   tidal volumes, which is more concerning for difficulty with compliance
   and volume overload.  Additionally, patient with [**Month/Year (2) **] opacity and
   diaphragm pulled up on the left that has been noted on all x-rays
   during this admission, to better see the anatomy in the [**Last Name (LF) **], [**First Name3 (LF) 124**]
   bronch the patient this afternoon to look at the [**First Name3 (LF) **].
   - continue with net negative goal, if UOP decreases to less than
   100cc/hr will give another dose of lasix and readdress possible
   extubation this afternoon.
   - Hold sedation for now to optimize mental status prior to extubation
   - NGT in place for meds/diet post extubation
   # Atrial Fibrillation: First occurred during SBT on [**11-23**], initially
   rates were in the 110
s, then increased to the 130
s.  Trialed
   metoprolol 12.5mg PO yesterday, with some improvement in HR to the
   100
s and her BP tolerated it well.
   - Metoprolol increased to 25mg TID, but patient still tachycardic in
   the 120
s to 130
s, so will trial an esmolol drip
   # Septic shock: resolving, patient off pressors, likely secondary to
   cholangitis and infected stone/sludge. ERCP showed significant pusand
   very large stone, she is s/p stent placement. Patient afebrile and
   white count stable. Lactate normal. Initial sepsis secondary to biliary
   source given CBD dilation with sludge and obstructive LFTs in setting
   on known choledocholithiasis.
   - Leukocytosis is resolving
white count almost normalized.  Had been
   afebrile for over 48 hours.
   - Cont zosyn pending any further culture data; Day [**8-22**] of zosyn. Day
   1=[**11-22**].  Will f/u cutlure data to see if we can narrow our coverage,
   will place a PICC and pull central line
   - plan for repeat ERCP in one month, after resolution of initial
   infection for stone break up and removal
   .
   # ARF: Improved, near baseline. Likely related to sepsis and
   intravascular volume depletion secondary to vomiting and diarrhea, also
   likely some component of ATN as her renal function has not improved as
   quickly with fluids as would be expected in a purely pre-renal picture.
   Cr back to near her baseline at 1.5 today, will tolerate a bump in Cr
   to help with further diruesis
   - Monitor UOP
   - Check PM lytes
   .
   #Thrombocytopenia: resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-28**] 03:34 PM
   Prophylaxis:
   DVT: SQ Heparin, pneumoboots
   Stress ulcer:
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), ok for re-intubation if patient
   fails extubation
   Disposition:ICU

2169-11-30 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt. status post extubation, doing great, weaned down to 2LNC
   - passed speech and swallow.  Diet advanced to regular
   - still on dilt/lopressor, dilt seems to have better HR effects
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-30**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-11-29**] 12:42 PM
   Heparin Sodium (Prophylaxis) - [**2169-11-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies CP/SOB, nausea, vomiting, diarrhea, pain.
   Does c/o hoarse voice
   Flowsheet Data as of  [**2169-11-30**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 108 (87 - 111) bpm
   BP: 118/56(69) {82/35(45) - 129/82(86)} mmHg
   RR: 29 (25 - 36) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.2 kg (admission): 83.8 kg
   Height: 64 Inch
             Total In:
                                                                    892 mL
                                                                    666 mL
   PO:
             TF:
                                                                     10 mL
                                                                     99 mL
   IVF:
                                                                    642 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    260 mL
   Urine:
                                                                  1,965 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,073 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (236 - 310) mL
   PS : 8 cmH2O
   RR (Spontaneous): 33
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 9 cmH2O
   SpO2: 93%
   ABG: 7.46/44/124/30/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 354
   Physical Examination
   General: awake, responsive, follows commands
   HEENT: PERRL, MMM, NG tube in place
   Neck: RIJ in place
   Lungs: clear lungs anteriorly, no wheezes, rales, ronchi
   CV: irregularly irregular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no LE edema, upper extremities
   R>L, [**3-14**]+ edema bilaterally
   Labs / Radiology
   206 K/uL
   8.9 g/dL
   78 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   26 mg/dL
   99 mEq/L
   139 mEq/L
   26.6 %
   7.3 K/uL
        [image002.jpg]
                            [**2169-11-25**]  04:02 AM
                            [**2169-11-26**]  04:54 AM
                            [**2169-11-26**]  09:30 PM
                            [**2169-11-27**]  04:15 AM
                            [**2169-11-27**]  03:55 PM
                            [**2169-11-28**]  02:50 AM
                            [**2169-11-28**]  05:17 PM
                            [**2169-11-29**]  03:59 AM
                            [**2169-11-29**]  07:32 AM
                            [**2169-11-30**]  04:02 AM
   WBC
   11.3
   10.6
   11.2
   12.2
   11.3
   7.3
   Hct
   29.7
   29.3
   27.9
   27.4
   27.9
   26.6
   Plt
   48
   60
   84
   131
   174
   206
   Cr
   1.5
   1.5
   1.4
   1.3
   1.4
   1.5
   1.4
   1.4
   1.4
   TCO2
   32
   Glucose
   128
   119
   126
   143
   117
   109
   98
   80
   78
   Other labs: PT / PTT / INR:12.0/23.7/1.0, CK / CKMB /
   Troponin-T:269/8/0.02, ALT / AST:45/23, Alk Phos / T Bili:103/1.5,
   Amylase / Lipase:16/, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:3903 ng/mL, Fibrinogen:596 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:203 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   85yo F with a h/o choledocholithiasis, HTN, renal CA, and dementia who
   presents with dyspnea and vomiting complicated by acute respiratory
   failure and septic shock likely secondary to cholangitis. She is s/p
   ERCP and stent.
   .
   # Dyspnea/respiratory failure: Resp failure initially thought to be due
   to her primary metabolic acidosis, which caused her to hyperventilate
   to compensate and fatigued, becoming acutely SOB and requiring
   intubation in the ED. Unable to wean effectively; likely secondary to
   fluid resuscitation; as fluid overload was seen on CXR.  S/p
   extubation.
   - s/p extubation, satting well on 2L NC
   # Atrial Fibrillation:  Metoprolol at 25mg TID and Dilt 30mg QID for
   rate control, rate has been in the 110
s  with both medications.  Some
   tachycardia likely related to intubation and agitation.  Episodic BPs
   low on both agents.
   - d/c dilt and monitor BP/tachycardia
   - will need ongoing titration/o/p follow up
   # Septic shock: resolved from initial cholangitis source, patient off
   pressors, likely secondary to cholangitis and infected stone/sludge.
   ERCP showed significant pusand very large stone, she is s/p stent
   placement. Patient afebrile and white count stable. Lactate normal.
   Initial sepsis secondary to biliary source given CBD dilation with
   sludge and obstructive LFTs in setting on known choledocholithiasis.
   - Cont zosyn pending any further culture data; Day [**9-22**] of zosyn. Day
   1=[**11-22**].  PICC placed, will complete a 14 day course of zosyn as the
   mircolab is currently unable to provide further speciation and she has
   been improving on zosyn
   - repeat ERCP in 1 month, scheduled [**12-28**]
   .
   # ARF: Improved, back to her baseline.
   .
   #Thrombocytopenia: resolved
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2169-11-29**] 11:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-28**] 03:34 PM
   Prophylaxis:
   DVT: SQ Heparin, pneumoboots
   Stress ulcer:
   VAP:  bundle
   Comments:
   Communication:  Comments: family
   Code status: DNR (do not resuscitate), ok for re-intubation if patient
   fails extubation
   Disposition:  transfer to floor
   12:28
   ------ Protected Section ------
   Agree with excellent medical student note with the following addition:
   The patient was on long acting metoprolol at a dose of 100mg daily
   prior to admission.  She would benefit from continuing the beta-blocker
   rather than the calcium channel blocker for coronary artery disease
   history.  She will likely need to be titrated up on the metoprolol to
   at least her prior home dose but likely higher.
   The patient is doing well on 2L NC this AM and is ready to be
   transferred to the floor.
   She passed her speech and swallow study.  Her NG tube will be pulled
   today, and her diet will be advanced.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9313**], MD
   on:[**2169-11-30**] 12:53 ------